US05998433
b) Synthesis of N,N-dimethyl-[5-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[5-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine 0.148 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was then concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[5-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine | 0.148 g | CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(=O)C=1OC=CC1)=O | C22H22N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[5-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[3,2-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC=2CN(CCC2O1)C(C1=CC=C(C=C1)C(=O)C=1OC=CC1)=O | InChI=1S/C22H22N2O4.ClH/c1-23(2)14-18-12-17-13-24(10-9-19(17)28-18)22(26)16-7-5-15(6-8-16)21(25)20-4-3-11-27-20;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
